US04261651
Step E1: The production of trans-4-n-propylcyclohexylmethyl bromide
Trans-4-n-propylcyclohexylmethanol (0.12 mole) was added to red phosphorus (0.03 g atom) and warmed gently (ca 30° C.) using an oil bath. Bromine (0.14 mole) was added dropwise to the mixture. When addition was complete (about 1/2 hour) the temperature of the oil bath was raised to 180° C. for one hour. After this time, the mixture was allowed to cool, shaken with ether and filtered. The filtrate was washed with water, then dried (Na2SO4). The ether was removed by distillation and the residue distilled. The product boiled at 112° C. at a pressure of 15 mm Hg.

reactant | Trans-4-n-propylcyclohexylmethanol | 0.12 mole | C(CC)[C@@H]1CC[C@H](CC1)CO | C10H20O
reactant | Bromine | 0.14 mole | BrBr | Br2
solvent | ether | CCOCC | C4H10O
product | trans-4-n-propylcyclohexylmethyl bromide | C(CC)[C@@H]1CC[C@H](CC1)CBr | C10H19Br
